US06967204B2
5-tert-Butyl-1H-pyrazol-3-carboxylic acid ethyl ester (20 g, 100 mmol) and 1M NaOH solution (250 ml, 250 mmol) were dissolved in 1,4-dioxan (300 ml), the reaction was heated to 60° C. under nitrogen and stirred for 2.5 hours. The reaction was then cooled to room temperature and stirred for a further 18 hours. The reaction mixture was adjusted to pH 2 using concentrated hydrochloric acid, extracted with ethyl acetate (4×200 ml) and the combined organic extracts washed with brine (100 ml). The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure to give 5-tert-butyl-1H-pyrazol-3-carboxylic acid (14.7 g) as a pale yellow solid. 1H NMR (400 MHz, DMSO-D6): δ=12.80-12.88 (2H, brs), 6.41 (1H, s), 1.11 (9H, s) ppm. LRMS (electrospray): m/z [M+H]+ 169, [M+Na]+ 191, [M−H]+ 167.

reactant | 5-tert-Butyl-1H-pyrazol-3-carboxylic acid ethyl ester | 100 mmol, 20 g | C(C)OC(=O)C1=NNC(=C1)C(C)(C)C | C10H16N2O2
reactant | NaOH | 250 mmol, 1M, 250 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 5-tert-butyl-1H-pyrazol-3-carboxylic acid | 14.7 g | C(C)(C)(C)C1=CC(=NN1)C(=O)O | C8H12N2O2
